US07015218B1
1-(4-Chlorophenyl)-5-methyl-N-[3-methyl-4-(4-morpholinopiperidin-1-yl)phenyl]pyrazole-4-carboxamide ½ hydrate
By the reaction and treatment in the same manner as in Example 150 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride (1.0 g) and 3-methyl-4-(4-morpholinopiperidin-1-yl)aniline (1.07 g), the title compound (1.0 g) was obtained, melting point: 235–245° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic chloride | 1.0 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)Cl | C11H8Cl2N2O
reactant | 3-methyl-4-(4-morpholinopiperidin-1-yl)aniline | 1.07 g | CC=1C=C(N)C=CC1N1CCC(CC1)N1CCOCC1 | C16H25N3O
product | 1-(4-Chlorophenyl)-5-methyl-N-[3-methyl-4-(4-morpholinopiperidin-1-yl)phenyl]pyrazole-4-carboxamide | 1.0 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCOCC1)C | C27H32ClN5O2
